US04721791
3-Methyl-5-(trichlorovinyl)benzyl azide
A solution of 3-methyl-5-(trichlorovinyl)benzyl bromide (3.14 g) and sodium azide (1.0 g) in 25 ml of ethanol was heated at reflux for 2 hours. The reaction mixture was concentrated under reduced pressure and the resulting oil triturated with 50 ml of hexane. The mixture was filtered and the filtrate concentrated to give 2.64 g of azide.

reactant | 3-methyl-5-(trichlorovinyl)benzyl bromide | 3.14 g | CC=1C=C(CBr)C=C(C1)C(=C(Cl)Cl)Cl | C10H8BrCl3
reactant | sodium azide | 1.0 g | [N-]=[N+]=[N-].[Na+]
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 3-Methyl-5-(trichlorovinyl)benzyl azide | 2.64 g | CC=1C=C(CN=[N+]=[N-])C=C(C1)C(=C(Cl)Cl)Cl | C10H8Cl3N3
